US04665087
To a solution of 16 g of phosgene in 70 ml of toluene, a solution of 17.4 g of methyl 2-methyl-3-methylaminopropionate in 30 ml of toluene was added dropwise with stirring at 20° C. The mixture was stirred at room temperature for 4 hours and evaporated to dryness. The residue was stirred for 10 min. with 100 ml of ethyl ether, filtered, the filtrates are evaporated to dryness and the residue was distilled at high vacuum to give the N-methyl-N-(2-methoxycarbonylpropyl)carbamoyl chloride, bp. 97°-100°/1 mm Hg.

reactant | phosgene | 16 g | C(=O)(Cl)Cl | CCl2O
reactant | methyl 2-methyl-3-methylaminopropionate | 17.4 g | CC(C(=O)OC)CNC | C6H13NO2
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | N-methyl-N-(2-methoxycarbonylpropyl)carbamoyl chloride | CN(C(=O)Cl)CC(C)C(=O)OC | C7H12ClNO3
